US08710043B2
Intermediate 114: 5-Chloro-6-oxo-1,6-dihydropyridine-3-carboxylic Acid
To a solution of 6-hydroxy nicotinic acid (0.500 g, 3.59 mmol, TCI) in MeCN (20 mL), was added N-chlorosuccinimide (0.436 mL, 5.39 mmol, Aldrich). The resulting mixture was then heated at 80° C. for 72 h. A white precipitate was present. The mixture was filtered and the white solid was washed with EtOAc (2×1 mL) and dried in vacuo to afford the title compound as a white solid. MS (ESI, positive ion) m/z: 174, 176 (M+H).

reactant | 6-hydroxy nicotinic acid | 3.59 mmol, 0.500 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | N-chlorosuccinimide | 5.39 mmol, 0.436 mL | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | MeCN | 20 mL | CC#N | C2H3N
product | 5-Chloro-6-oxo-1,6-dihydropyridine-3-carboxylic Acid | ClC1=CC(=CNC1=O)C(=O)O | C6H4ClNO3
